US08293768B2
Synthesis of 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methyl-N-((2-methylthiazol-4-yl)methyl)thiophene-2-carboxamide
Following the procedures as described in Example 55, making variations as required to replace 3-methyl-5-(2-oxo-3-(2-phenoxyethyl)imidazolidin-1-yl)thiophene-2-carboxylic acid with 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylic acid to react with (2-methylthiazol-4-yl)methanamine dihydrochloride, the title compound was obtained as a colorless solid in 71% yield: 1H NMR (300 MHz, CDCl3) δ 7.30-7.23 (m, 2H), 7.07-6.99 (m, 3H), 6.28 (t, J=5.2 Hz, 1H), 6.10 (s, 1H), 4.63 (d, J=5.2 Hz, 2H), 4.43 (s, 2H), 3.83-3.75 (m, 2H), 3.47-3.39 (m, 2H), 2.71 (s, 3H), 2.49 (s, 3H); MS (ES+) m/z 445.2 (M+1).

reactant | 3-methyl-5-(2-oxo-3-(2-phenoxyethyl)imidazolidin-1-yl)thiophene-2-carboxylic acid | CC1=C(SC(=C1)N1C(N(CC1)CCOC1=CC=CC=C1)=O)C(=O)O | C17H18N2O4S
reactant | 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylic acid | FC1=CC=C(CN2C(N(CC2)C2=CC(=C(S2)C(=O)O)C)=O)C=C1 | C16H15FN2O3S
reactant | (2-methylthiazol-4-yl)methanamine dihydrochloride | Cl.Cl.CC=1SC=C(N1)CN
product | 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methyl-N-((2-methylthiazol-4-yl)methyl)thiophene-2-carboxamide | 71% yield | FC1=CC=C(CN2C(N(CC2)C2=CC(=C(S2)C(=O)NCC=2N=C(SC2)C)C)=O)C=C1 | C21H21FN4O2S2
